US09351974B2
Step b: Methyl N-(2-chloro-5-nitropyrimidin-4-yl)-2-methyl-N-(3-methylbutyl)alaninate
To a stirred suspension of 2,4-dichloro-5-nitropyrimidine (7.5 g, 38.5 mmol), anhydrous potassium carbonate (10.0 g) in dry acetone (150 mL) was added a solution of methyl 2-methyl-N-(3-methylbutyl)alaninate (5.6 g, 30.0 mmol) in dry acetone (9 mL) at 0° C. The reaction was then allowed to warm up to room temperature and stirred at rt for 16 h. The reaction mixture was filtered and evaporated. The residue was purified by flash chromatography on silica gel (eluent: ethyl acetate-hexane mixture (v:v=5:95)) to give titled product (yield: 15%). 1HNMR (300 MHz, CDCl3): δ 0.85 (s, 3H), 0.88 (s, 3H), 1.30-1.36 (m, 2H), 1.60-1.65 (m, 7H), 3.37-3.42 (m, 2H), 3.72 (s, 3H) and 8.56 (s, 1H).

reactant | 2,4-dichloro-5-nitropyrimidine | 38.5 mmol, 7.5 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-methyl-N-(3-methylbutyl)alaninate | 30.0 mmol, 5.6 g | CC(NCCC(C)C)(C)C(=O)OC | C10H21NO2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | acetone | 9 mL | CC(=O)C | C3H6O
product | Methyl N-(2-chloro-5-nitropyrimidin-4-yl)-2-methyl-N-(3-methylbutyl)alaninate | yield: 15% | ClC1=NC=C(C(=N1)N(C(C)(C(=O)OC)C)CCC(C)C)[N+](=O)[O-] | C14H21ClN4O4
